datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCC)C)C>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCC)C)C 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[OH:10]C([H])C(C)C([H])C([H])[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C([H])C([H])C(C)C([H])[OH+:10]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[S]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])CC)CCCCCC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])O[H])[H].[O-:21]C>>CCCCCCN([C:20]([O-:10])(O[H])[O:21]C)[H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)=C([H])C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)C(C)/C([H])=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CCCCCC>>CCC1C(O[C:20](=[O:10])N1CCCCCC)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[S]1 10=20;20,21=21"
"[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C)CC>>[H]N([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(C)=C([H])C(C)[O:10]1>>[O-:10]C(C)/C([H])=C(C)\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(CC)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(O)C([H])C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C(O)C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)[H])CC>>C(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)([O-:21])[H] 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)C([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[O+:10]([Na])C([H])C(C)C1C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([S]C)[S][H].[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([S]C)[S][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[O][H].[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H])CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
